US05578620
Ethyl 4-[5-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]butyrate
A procedure similar to that described in Preparation 4 was repeated, except that 0.52 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 30 ml of anhydrous dimethylformamide, 2.00 g of 5-(3-chlorophenoxymethyl)oxazolidin-2-one and 2.34 g of ethyl 4-bromobutyrate were used, to give 1.50 g of the title compound having an Rf value of 0.39 (on silica gel thin layer chromatography, using a 2:1 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | sodium hydride | 0.52 g | [H-].[Na+]
reactant | 5-(3-chlorophenoxymethyl)oxazolidin-2-one | 2.00 g | ClC=1C=C(OCC2CNC(O2)=O)C=CC1 | C10H10ClNO3
reactant | ethyl 4-bromobutyrate | 2.34 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-[5-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]butyrate | 1.50 g | ClC=1C=C(OCC2CN(C(O2)=O)CCCC(=O)OCC)C=CC1 | C16H20ClNO5
